US06130214
Ethyl 2-ethoxy-3-[4-[(2,2-diethoxy)ethoxy]phenyl]-2-propenoate
To a stirred suspension of sodium hydride (756 mg, 32 mmol, 95%) in dry THF (60 mL) was added a solution of ethyl(diethylphosphono)ethoxyacetate (6.20 g, 23.1 mmol) in THF (20 mL) at 0-5° C. dropwise and stirred for 30 min at 5-25° C. To the reaction mixture was added a solution of 4-[(2,2-diethoxy)ethoxy]benzaldehyde (5.0 g, 21.0 mmol) in THF (10 mL) at 25° C. and stirred further for 30 min. After completion of the reaction (TLC monitored), THF was removed and the resultant residue was diluted with water (100 mL) and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated to yield the title compound (6.5 g, 88%) as a mixture of E/Z isomers.

reactant | sodium hydride | 32 mmol, 756 mg | [H-].[Na+]
reactant | ethyl(diethylphosphono)ethoxyacetate | 23.1 mmol, 6.20 g | C(C)OC(COCCP(=O)(OCC)OCC)=O | C10H21O6P
reactant | 4-[(2,2-diethoxy)ethoxy]benzaldehyde | 21.0 mmol, 5.0 g | C(C)OC(COC1=CC=C(C=O)C=C1)OCC | C13H18O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 2-ethoxy-3-[4-[(2,2-diethoxy)ethoxy]phenyl]-2-propenoate | 6.5 g, 88% | C(C)OC(C(=O)OCC)=CC1=CC=C(C=C1)OCC(OCC)OCC | C19H28O6
